US07713973B2
3-(3-Bromo-benzyl)-imidazolidine-2,4-dione
Hydantoin (300 mg, 3.0 mmol) was added to a solution of KOH (202 mg, 3.6 mmol) in 90% EtOH at r.t., and the reaction stirred for 30 min. 3-Bromobenzyl bromide (750 mg, 3.0 mmol) was added, and the reaction was heated at reflux for 18 h. The solution was diluted with EtOAc, washed with H2O and brine, dried (MgSO4) and concentrated in vacuo. Precipitation from 50% EtOAc/hexanes followed by collection by filtration gave 512 mg (63%) of the title compound as a white solid. 1H NMR (400 MHz, CDCl3) δ 7.54 (s, 1H), 7.42 (d, J=7.6 Hz, 1H), 7.34 (d, J=7.6 Hz, 1H), 7.19 (t, J=7.6 Hz, 1H), 5.81 (s, 1H), 4.63 (s, 2H), 4.00 (s, 2H). [M+H] calc'd for C10H9BrN2O2, 269, 271; found, 269, 271.

reactant | Hydantoin | 3.0 mmol, 300 mg | N1C(=O)NC(=O)C1 | C3H4N2O2
reactant | KOH | 3.6 mmol, 202 mg | [OH-].[K+]
reactant | 3-Bromobenzyl bromide | 3.0 mmol, 750 mg | BrC=1C=C(CBr)C=CC1 | C7H6Br2
solvent | EtOH | CCO | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(3-Bromo-benzyl)-imidazolidine-2,4-dione | 512 mg, 63% | BrC=1C=C(CN2C(NCC2=O)=O)C=CC1 | C10H9BrN2O2
